US07572607B2
Similar experiments were conducted using Biocatalytics Aminotransferase buffer, which contained 100 mM potassium phosphate pH 7.5, 0.1 mM PLP, and 100 mM glutamate. Solid indole-pyruvate and D-aminotransferase were added as above. ProA aldolase (50 μg), MgCl2, and 50 mM pyruvate were added from stock solutions. The assays were treated as above, although no pH adjustment was required in this case. A negative control was done with just the BioCatalytics supplied enzyme and buffer, which did not produce any monatin. The experimental results are shown in Table 9.

reactant | potassium phosphate | 100 mM, pH 7.5 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | glutamate | 100 mM | N[C@@H](CCC(=O)[O-])C(=O)[O-]
reactant | indole-pyruvate | N1C(=CC2=CC=CC=C12)CC(C(=O)[O-])=O
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
reactant | pyruvate | 50 mM | C(C(=O)C)(=O)[O-]
product | monatin | C1=CC=C2C(=C1)C(=CN2)C[C@](C[C@@H](C(=O)O)N)(C(=O)O)O | C14H16N2O5
